* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.004147834596491286
Fd1_1 0 s1 V1 -0.2073917298245643
Gr1_re_1_1 0 s1 x1_re_a1 0 3252660307.4543176
Gr1_im_1_1 0 s1 x1_im_a1 0 1048988328.9692937
Gr2_re_1_1 0 s1 x2_re_a1 0 165586191.01052547
Gr2_im_1_1 0 s1 x2_im_a1 0 202910518.0901297
Gr3_re_1_1 0 s1 x3_re_a1 0 4589009189.245515
Gr3_im_1_1 0 s1 x3_im_a1 0 -2158193169.6575804
Gr4_re_1_1 0 s1 x4_re_a1 0 -1792901.5816478273
Gr4_im_1_1 0 s1 x4_im_a1 0 1846411.618063761
Gr5_re_1_1 0 s1 x5_re_a1 0 901820.9149158417
Gr5_im_1_1 0 s1 x5_im_a1 0 -1210582.367340321
Gr6_1_1 0 s1 x6_a1 0 1567066.9653316457
Gr7_re_1_1 0 s1 x7_re_a1 0 346700.5823003848
Gr7_im_1_1 0 s1 x7_im_a1 0 206548.7020627495
Gr8_re_1_1 0 s1 x8_re_a1 0 2077344.0372625152
Gr8_im_1_1 0 s1 x8_im_a1 0 363145.5139398463
Gd1_2 0 s1 p2 0 2.6458568593922498e-05
Fd1_2 0 s1 V2 0.001322928429696125
Gr1_re_1_2 0 s1 x1_re_a2 0 -9470278.651601493
Gr1_im_1_2 0 s1 x1_im_a2 0 -2520497.431339541
Gr2_re_1_2 0 s1 x2_re_a2 0 7160981.1390486965
Gr2_im_1_2 0 s1 x2_im_a2 0 2851006.4934454686
Gr3_re_1_2 0 s1 x3_re_a2 0 -41364191.87694939
Gr3_im_1_2 0 s1 x3_im_a2 0 -12555179.253143089
Gr4_re_1_2 0 s1 x4_re_a2 0 -735427.5311072053
Gr4_im_1_2 0 s1 x4_im_a2 0 799522.1389680663
Gr5_re_1_2 0 s1 x5_re_a2 0 509088.59918180614
Gr5_im_1_2 0 s1 x5_im_a2 0 -1022679.8504004843
Gr6_1_2 0 s1 x6_a2 0 -465867.97934300604
Gr7_re_1_2 0 s1 x7_re_a2 0 446980.28489835636
Gr7_im_1_2 0 s1 x7_im_a2 0 -735148.5259806957
Gr8_re_1_2 0 s1 x8_re_a2 0 409858.9558422917
Gr8_im_1_2 0 s1 x8_im_a2 0 -551518.8551672288
Gd1_3 0 s1 p3 0 -3.0361406467003643e-05
Fd1_3 0 s1 V3 -0.0015180703233501822
Gr1_re_1_3 0 s1 x1_re_a3 0 2742166.5364964344
Gr1_im_1_3 0 s1 x1_im_a3 0 9671202.833962288
Gr2_re_1_3 0 s1 x2_re_a3 0 -1664431.5425701416
Gr2_im_1_3 0 s1 x2_im_a3 0 627786.8665743147
Gr3_re_1_3 0 s1 x3_re_a3 0 51088911.99999817
Gr3_im_1_3 0 s1 x3_im_a3 0 52498210.98041744
Gr4_re_1_3 0 s1 x4_re_a3 0 -524943.2445029854
Gr4_im_1_3 0 s1 x4_im_a3 0 -6154107.667371944
Gr5_re_1_3 0 s1 x5_re_a3 0 -10660217.694369588
Gr5_im_1_3 0 s1 x5_im_a3 0 9653034.98087986
Gr6_1_3 0 s1 x6_a3 0 24356183.00772456
Gr7_re_1_3 0 s1 x7_re_a3 0 331321.7857213458
Gr7_im_1_3 0 s1 x7_im_a3 0 21850080.520808104
Gr8_re_1_3 0 s1 x8_re_a3 0 22188981.353752352
Gr8_im_1_3 0 s1 x8_im_a3 0 17947218.951704517
Gd1_4 0 s1 p4 0 -5.895329190001571e-08
Fd1_4 0 s1 V4 -2.9476645950007854e-06
Gr1_re_1_4 0 s1 x1_re_a4 0 -9659.474491165112
Gr1_im_1_4 0 s1 x1_im_a4 0 23085.254800970757
Gr2_re_1_4 0 s1 x2_re_a4 0 -4779.025601971373
Gr2_im_1_4 0 s1 x2_im_a4 0 1632.4591738590802
Gr3_re_1_4 0 s1 x3_re_a4 0 125813.55196875647
Gr3_im_1_4 0 s1 x3_im_a4 0 173380.11509666737
Gr4_re_1_4 0 s1 x4_re_a4 0 -23923.43495291496
Gr4_im_1_4 0 s1 x4_im_a4 0 12944.561786561299
Gr5_re_1_4 0 s1 x5_re_a4 0 -21949.42819428723
Gr5_im_1_4 0 s1 x5_im_a4 0 59308.40783566794
Gr6_1_4 0 s1 x6_a4 0 36346.04918494737
Gr7_re_1_4 0 s1 x7_re_a4 0 11967.615926236627
Gr7_im_1_4 0 s1 x7_im_a4 0 88361.77215777528
Gr8_re_1_4 0 s1 x8_re_a4 0 94851.58545706443
Gr8_im_1_4 0 s1 x8_im_a4 0 62587.30354428621
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.501943338686182e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 274771801628.41058
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -274771801628.41058
Rp1_im_im_a1 0 x1_im_a1 5.501943338686182e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.3050213076426745e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 180952557680.82983
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -180952557680.82983
Rp2_im_im_a1 0 x2_im_a1 3.3050213076426745e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.5398875570658776e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 139495561825.77884
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -139495561825.77884
Rp3_im_im_a1 0 x3_im_a1 1.5398875570658776e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.64429670842396e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 4116751728.6680427
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -4116751728.6680427
Rp4_im_im_a1 0 x4_im_a1 2.64429670842396e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.0635584907879053e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 1597564173.4868245
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -1597564173.4868245
Rp5_im_im_a1 0 x5_im_a1 2.0635584907879053e-08
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.725537490830469e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.720858255435298e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 788865747.2290963
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -788865747.2290963
Rp7_im_im_a1 0 x7_im_a1 1.720858255435298e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.6151584763968437e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 386941651.62529737
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -386941651.62529737
Rp8_im_im_a1 0 x8_im_a1 1.6151584763968437e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.6607599765493347e-05
Fd2_1 0 s2 V1 0.0013303799882746674
Gr1_re_2_1 0 s2 x1_re_a1 0 -9507147.818743164
Gr1_im_2_1 0 s2 x1_im_a1 0 -2483848.4171861233
Gr2_re_2_1 0 s2 x2_re_a1 0 7169910.995621881
Gr2_im_2_1 0 s2 x2_im_a1 0 2836833.678335781
Gr3_re_2_1 0 s2 x3_re_a1 0 -41498393.488229185
Gr3_im_2_1 0 s2 x3_im_a1 0 -12495923.932217035
Gr4_re_2_1 0 s2 x4_re_a1 0 -734797.1132655054
Gr4_im_2_1 0 s2 x4_im_a1 0 799124.752879242
Gr5_re_2_1 0 s2 x5_re_a1 0 508394.0548667602
Gr5_im_2_1 0 s2 x5_im_a1 0 -1022391.4968859866
Gr6_2_1 0 s2 x6_a1 0 -466474.7992400128
Gr7_re_2_1 0 s2 x7_re_a1 0 446876.80108443985
Gr7_im_2_1 0 s2 x7_im_a1 0 -734794.2372395648
Gr8_re_2_1 0 s2 x8_re_a1 0 410147.2179425199
Gr8_im_2_1 0 s2 x8_im_a1 0 -551527.9167365062
Gd2_2 0 s2 p2 0 -0.004123781624284977
Fd2_2 0 s2 V2 -0.20618908121424886
Gr1_re_2_2 0 s2 x1_re_a2 0 3178590131.3652678
Gr1_im_2_2 0 s2 x1_im_a2 0 1306383233.185616
Gr2_re_2_2 0 s2 x2_re_a2 0 161051702.81957406
Gr2_im_2_2 0 s2 x2_im_a2 0 223075318.8868822
Gr3_re_2_2 0 s2 x3_re_a2 0 5071705515.839412
Gr3_im_2_2 0 s2 x3_im_a2 0 -2001025294.534487
Gr4_re_2_2 0 s2 x4_re_a2 0 -1308240.852790736
Gr4_im_2_2 0 s2 x4_im_a2 0 1857877.5821004894
Gr5_re_2_2 0 s2 x5_re_a2 0 1230505.1995520922
Gr5_im_2_2 0 s2 x5_im_a2 0 -1067103.2739541365
Gr6_2_2 0 s2 x6_a2 0 1861672.6806367612
Gr7_re_2_2 0 s2 x7_re_a2 0 668725.7612956762
Gr7_im_2_2 0 s2 x7_im_a2 0 401545.4501724027
Gr8_re_2_2 0 s2 x8_re_a2 0 2706722.569786598
Gr8_im_2_2 0 s2 x8_im_a2 0 578949.205369487
Gd2_3 0 s2 p3 0 -1.0094323778254231e-07
Fd2_3 0 s2 V3 -5.047161889127116e-06
Gr1_re_2_3 0 s2 x1_re_a3 0 8254.20243349842
Gr1_im_2_3 0 s2 x1_im_a3 0 28041.112573492246
Gr2_re_2_3 0 s2 x2_re_a3 0 -4841.378649374407
Gr2_im_2_3 0 s2 x2_im_a3 0 688.0513129131401
Gr3_re_2_3 0 s2 x3_re_a3 0 152942.35422795743
Gr3_im_2_3 0 s2 x3_im_a3 0 181139.04788814022
Gr4_re_2_3 0 s2 x4_re_a3 0 -18662.470479177868
Gr4_im_2_3 0 s2 x4_im_a3 0 17704.051929050664
Gr5_re_2_3 0 s2 x5_re_a3 0 -22030.818410995864
Gr5_im_2_3 0 s2 x5_im_a3 0 58748.52594016911
Gr6_2_3 0 s2 x6_a3 0 37163.34085253209
Gr7_re_2_3 0 s2 x7_re_a3 0 8938.534253285246
Gr7_im_2_3 0 s2 x7_im_a3 0 91021.55180593592
Gr8_re_2_3 0 s2 x8_re_a3 0 100745.5008333231
Gr8_im_2_3 0 s2 x8_im_a3 0 66622.74497266565
Gd2_4 0 s2 p4 0 -3.05156082087363e-05
Fd2_4 0 s2 V4 -0.001525780410436815
Gr1_re_2_4 0 s2 x1_re_a4 0 2764009.554106065
Gr1_im_2_4 0 s2 x1_im_a4 0 9730262.082594825
Gr2_re_2_4 0 s2 x2_re_a4 0 -1668659.2358558024
Gr2_im_2_4 0 s2 x2_im_a4 0 632407.0251335091
Gr3_re_2_4 0 s2 x3_re_a4 0 51325729.834868826
Gr3_im_2_4 0 s2 x3_im_a4 0 52731872.78930209
Gr4_re_2_4 0 s2 x4_re_a4 0 -494516.39595240605
Gr4_im_2_4 0 s2 x4_im_a4 0 -6054939.147351163
Gr5_re_2_4 0 s2 x5_re_a4 0 -10573183.956710102
Gr5_im_2_4 0 s2 x5_im_a4 0 9661596.815730844
Gr6_2_4 0 s2 x6_a4 0 24331181.45818667
Gr7_re_2_4 0 s2 x7_re_a4 0 371539.6175643848
Gr7_im_2_4 0 s2 x7_im_a4 0 21798379.9159584
Gr8_re_2_4 0 s2 x8_re_a4 0 22157402.871923253
Gr8_im_2_4 0 s2 x8_im_a4 0 17897131.2815835
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.501943338686182e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 274771801628.41058
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -274771801628.41058
Rp1_im_im_a2 0 x1_im_a2 5.501943338686182e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.3050213076426745e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 180952557680.82983
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -180952557680.82983
Rp2_im_im_a2 0 x2_im_a2 3.3050213076426745e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.5398875570658776e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 139495561825.77884
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -139495561825.77884
Rp3_im_im_a2 0 x3_im_a2 1.5398875570658776e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.64429670842396e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 4116751728.6680427
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -4116751728.6680427
Rp4_im_im_a2 0 x4_im_a2 2.64429670842396e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.0635584907879053e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 1597564173.4868245
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -1597564173.4868245
Rp5_im_im_a2 0 x5_im_a2 2.0635584907879053e-08
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.725537490830469e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.720858255435298e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 788865747.2290963
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -788865747.2290963
Rp7_im_im_a2 0 x7_im_a2 1.720858255435298e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.6151584763968437e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 386941651.62529737
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -386941651.62529737
Rp8_im_im_a2 0 x8_im_a2 1.6151584763968437e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -3.0391820627404986e-05
Fd3_1 0 s3 V1 -0.0015195910313702493
Gr1_re_3_1 0 s3 x1_re_a1 0 2759778.197784762
Gr1_im_3_1 0 s3 x1_im_a1 0 9682489.607111108
Gr2_re_3_1 0 s3 x2_re_a1 0 -1663717.3326602243
Gr2_im_3_1 0 s3 x2_im_a1 0 629716.4536994516
Gr3_re_3_1 0 s3 x3_re_a1 0 51116139.97377258
Gr3_im_3_1 0 s3 x3_im_a1 0 52496339.116563015
Gr4_re_3_1 0 s3 x4_re_a1 0 -527166.2746868539
Gr4_im_3_1 0 s3 x4_im_a1 0 -6149451.264739029
Gr5_re_3_1 0 s3 x5_re_a1 0 -10650652.663351964
Gr5_im_3_1 0 s3 x5_im_a1 0 9650379.716921683
Gr6_3_1 0 s3 x6_a1 0 24352692.546102732
Gr7_re_3_1 0 s3 x7_re_a1 0 332518.0888381975
Gr7_im_3_1 0 s3 x7_im_a1 0 21835359.503209557
Gr8_re_3_1 0 s3 x8_re_a1 0 22173400.0040399
Gr8_im_3_1 0 s3 x8_im_a1 0 17940409.198679592
Gd3_2 0 s3 p2 0 -8.348396926549141e-08
Fd3_2 0 s3 V2 -4.174198463274571e-06
Gr1_re_3_2 0 s3 x1_re_a2 0 3144.264469247312
Gr1_im_3_2 0 s3 x1_im_a2 0 20185.1584900215
Gr2_re_3_2 0 s3 x2_re_a2 0 -4881.311211497006
Gr2_im_3_2 0 s3 x2_im_a2 0 527.6037942581988
Gr3_re_3_2 0 s3 x3_re_a2 0 144596.1239491267
Gr3_im_3_2 0 s3 x3_im_a2 0 187292.75439056457
Gr4_re_3_2 0 s3 x4_re_a2 0 -18743.91729133383
Gr4_im_3_2 0 s3 x4_im_a2 0 17867.353545276692
Gr5_re_3_2 0 s3 x5_re_a2 0 -21943.967607342165
Gr5_im_3_2 0 s3 x5_im_a2 0 58628.6923971067
Gr6_3_2 0 s3 x6_a2 0 36407.6881871955
Gr7_re_3_2 0 s3 x7_re_a2 0 8762.65743600445
Gr7_im_3_2 0 s3 x7_im_a2 0 90915.12521163507
Gr8_re_3_2 0 s3 x8_re_a2 0 101071.22145825526
Gr8_im_3_2 0 s3 x8_im_a2 0 66709.96397876223
Gd3_3 0 s3 p3 0 0.0005910080307070279
Fd3_3 0 s3 V3 0.0295504015353514
Gr1_re_3_3 0 s3 x1_re_a3 0 -349138595.4130342
Gr1_im_3_3 0 s3 x1_im_a3 0 32273014.347922858
Gr2_re_3_3 0 s3 x2_re_a3 0 -2001084.7339156305
Gr2_im_3_3 0 s3 x2_im_a3 0 11007399.138916386
Gr3_re_3_3 0 s3 x3_re_a3 0 -788451530.1667006
Gr3_im_3_3 0 s3 x3_im_a3 0 264577375.32270476
Gr4_re_3_3 0 s3 x4_re_a3 0 -24972.579272781903
Gr4_im_3_3 0 s3 x4_im_a3 0 -75722.06270440808
Gr5_re_3_3 0 s3 x5_re_a3 0 -782219.1205159553
Gr5_im_3_3 0 s3 x5_im_a3 0 -1317.9710593136124
Gr6_3_3 0 s3 x6_a3 0 -592942.0518343822
Gr7_re_3_3 0 s3 x7_re_a3 0 -972453.2781245442
Gr7_im_3_3 0 s3 x7_im_a3 0 87804.93057868359
Gr8_re_3_3 0 s3 x8_re_a3 0 750672.7817935222
Gr8_im_3_3 0 s3 x8_im_a3 0 225506.57188641187
Gd3_4 0 s3 p4 0 -1.606080916045073e-06
Fd3_4 0 s3 V4 -8.030404580225364e-05
Gr1_re_3_4 0 s3 x1_re_a4 0 345325.50330581894
Gr1_im_3_4 0 s3 x1_im_a4 0 262790.71266066487
Gr2_re_3_4 0 s3 x2_re_a4 0 -36709.31206051676
Gr2_im_3_4 0 s3 x2_im_a4 0 46435.88637162158
Gr3_re_3_4 0 s3 x3_re_a4 0 2004060.1173676322
Gr3_im_3_4 0 s3 x3_im_a4 0 933417.2311600235
Gr4_re_3_4 0 s3 x4_re_a4 0 80224.58169294696
Gr4_im_3_4 0 s3 x4_im_a4 0 -509124.1072335144
Gr5_re_3_4 0 s3 x5_re_a4 0 -657079.3581068204
Gr5_im_3_4 0 s3 x5_im_a4 0 208554.5344718498
Gr6_3_4 0 s3 x6_a4 0 299087.821074582
Gr7_re_3_4 0 s3 x7_re_a4 0 6125.9401875930025
Gr7_im_3_4 0 s3 x7_im_a4 0 763601.7605900501
Gr8_re_3_4 0 s3 x8_re_a4 0 878026.9168765111
Gr8_im_3_4 0 s3 x8_im_a4 0 409472.09770552587
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.501943338686182e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 274771801628.41058
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -274771801628.41058
Rp1_im_im_a3 0 x1_im_a3 5.501943338686182e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.3050213076426745e-10
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 180952557680.82983
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -180952557680.82983
Rp2_im_im_a3 0 x2_im_a3 3.3050213076426745e-10
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.5398875570658776e-11
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 139495561825.77884
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -139495561825.77884
Rp3_im_im_a3 0 x3_im_a3 1.5398875570658776e-11
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 2.64429670842396e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 4116751728.6680427
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -4116751728.6680427
Rp4_im_im_a3 0 x4_im_a3 2.64429670842396e-08
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 2.0635584907879053e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 1597564173.4868245
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -1597564173.4868245
Rp5_im_im_a3 0 x5_im_a3 2.0635584907879053e-08
Cx6_a3 x6_a3 0 1.0
Gx6_a3 0 x6_a3 p3 0 0.07071067811865475
Fx6_a3 0 x6_a3 V3 3.5355339059327378
Rp6_a3 0 x6_a3 1.725537490830469e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.720858255435298e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 788865747.2290963
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -788865747.2290963
Rp7_im_im_a3 0 x7_im_a3 1.720858255435298e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.6151584763968437e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 386941651.62529737
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -386941651.62529737
Rp8_im_im_a3 0 x8_im_a3 1.6151584763968437e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -7.395282574240422e-08
Fd4_1 0 s4 V1 -3.697641287120211e-06
Gr1_re_4_1 0 s4 x1_re_a1 0 10163.983627400285
Gr1_im_4_1 0 s4 x1_im_a1 0 25710.604100661454
Gr2_re_4_1 0 s4 x2_re_a1 0 -8345.51122681833
Gr2_im_4_1 0 s4 x2_im_a1 0 1039.7365522821653
Gr3_re_4_1 0 s4 x3_re_a1 0 133550.43198304676
Gr3_im_4_1 0 s4 x3_im_a1 0 172020.59713794835
Gr4_re_4_1 0 s4 x4_re_a1 0 -23776.27089576679
Gr4_im_4_1 0 s4 x4_im_a1 0 12986.663771603815
Gr5_re_4_1 0 s4 x5_re_a1 0 -22014.293923883066
Gr5_im_4_1 0 s4 x5_im_a1 0 59369.3538820726
Gr6_4_1 0 s4 x6_a1 0 37184.03279691118
Gr7_re_4_1 0 s4 x7_re_a1 0 11440.939664705373
Gr7_im_4_1 0 s4 x7_im_a1 0 88466.85928757368
Gr8_re_4_1 0 s4 x8_re_a1 0 95315.35397471701
Gr8_im_4_1 0 s4 x8_im_a1 0 62860.44725290515
Gd4_2 0 s4 p2 0 -3.0530147231392314e-05
Fd4_2 0 s4 V2 -0.001526507361569616
Gr1_re_4_2 0 s4 x1_re_a2 0 2752537.3868708895
Gr1_im_4_2 0 s4 x1_im_a2 0 9720750.141714493
Gr2_re_4_2 0 s4 x2_re_a2 0 -1668638.5041879104
Gr2_im_4_2 0 s4 x2_im_a2 0 632027.3943871569
Gr3_re_4_2 0 s4 x3_re_a2 0 51333085.225468904
Gr3_im_4_2 0 s4 x3_im_a2 0 52710486.58642755
Gr4_re_4_2 0 s4 x4_re_a2 0 -495859.649529219
Gr4_im_4_2 0 s4 x4_im_a2 0 -6051534.734280163
Gr5_re_4_2 0 s4 x5_re_a2 0 -10567628.084208323
Gr5_im_4_2 0 s4 x5_im_a2 0 9659108.400749065
Gr6_4_2 0 s4 x6_a2 0 24326272.249559764
Gr7_re_4_2 0 s4 x7_re_a2 0 381036.65241159673
Gr7_im_4_2 0 s4 x7_im_a2 0 21789795.33345432
Gr8_re_4_2 0 s4 x8_re_a2 0 22121094.922533136
Gr8_im_4_2 0 s4 x8_im_a2 0 17879504.90265385
Gd4_3 0 s4 p3 0 -1.6045159271627814e-06
Fd4_3 0 s4 V3 -8.022579635813907e-05
Gr1_re_4_3 0 s4 x1_re_a3 0 355385.1707968406
Gr1_im_4_3 0 s4 x1_im_a3 0 257603.12877991036
Gr2_re_4_3 0 s4 x2_re_a3 0 -35090.514068552955
Gr2_im_4_3 0 s4 x2_im_a3 0 46204.3697471511
Gr3_re_4_3 0 s4 x3_re_a3 0 2001624.9990847267
Gr3_im_4_3 0 s4 x3_im_a3 0 927396.7877261875
Gr4_re_4_3 0 s4 x4_re_a3 0 80221.6592092085
Gr4_im_4_3 0 s4 x4_im_a3 0 -509388.1000983258
Gr5_re_4_3 0 s4 x5_re_a3 0 -657826.5728343618
Gr5_im_4_3 0 s4 x5_im_a3 0 208566.9528436251
Gr6_4_3 0 s4 x6_a3 0 298571.82111192925
Gr7_re_4_3 0 s4 x7_re_a3 0 6171.575179458006
Gr7_im_4_3 0 s4 x7_im_a3 0 764204.029374745
Gr8_re_4_3 0 s4 x8_re_a3 0 877668.1615101661
Gr8_im_4_3 0 s4 x8_im_a3 0 409742.14189006004
Gd4_4 0 s4 p4 0 0.0007536792083321906
Fd4_4 0 s4 V4 0.037683960416609534
Gr1_re_4_4 0 s4 x1_re_a4 0 -242728710.59321958
Gr1_im_4_4 0 s4 x1_im_a4 0 146975306.7426052
Gr2_re_4_4 0 s4 x2_re_a4 0 28502883.30589938
Gr2_im_4_4 0 s4 x2_im_a4 0 -6113229.002878149
Gr3_re_4_4 0 s4 x3_re_a4 0 -1033587961.1369188
Gr3_im_4_4 0 s4 x3_im_a4 0 151992872.26303998
Gr4_re_4_4 0 s4 x4_re_a4 0 -135407.91905208986
Gr4_im_4_4 0 s4 x4_im_a4 0 -503173.44001728273
Gr5_re_4_4 0 s4 x5_re_a4 0 -964562.6736428814
Gr5_im_4_4 0 s4 x5_im_a4 0 156874.0765239805
Gr6_4_4 0 s4 x6_a4 0 -846964.9923827382
Gr7_re_4_4 0 s4 x7_re_a4 0 -1253750.932580783
Gr7_im_4_4 0 s4 x7_im_a4 0 19912.277980014573
Gr8_re_4_4 0 s4 x8_re_a4 0 775275.7953560542
Gr8_im_4_4 0 s4 x8_im_a4 0 298395.13983813813
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.501943338686182e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 274771801628.41058
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -274771801628.41058
Rp1_im_im_a4 0 x1_im_a4 5.501943338686182e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.3050213076426745e-10
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 180952557680.82983
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -180952557680.82983
Rp2_im_im_a4 0 x2_im_a4 3.3050213076426745e-10
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.5398875570658776e-11
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 139495561825.77884
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -139495561825.77884
Rp3_im_im_a4 0 x3_im_a4 1.5398875570658776e-11
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 2.64429670842396e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 4116751728.6680427
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -4116751728.6680427
Rp4_im_im_a4 0 x4_im_a4 2.64429670842396e-08
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 2.0635584907879053e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 1597564173.4868245
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -1597564173.4868245
Rp5_im_im_a4 0 x5_im_a4 2.0635584907879053e-08
Cx6_a4 x6_a4 0 1.0
Gx6_a4 0 x6_a4 p4 0 0.07071067811865475
Fx6_a4 0 x6_a4 V4 3.5355339059327378
Rp6_a4 0 x6_a4 1.725537490830469e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.720858255435298e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 788865747.2290963
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -788865747.2290963
Rp7_im_im_a4 0 x7_im_a4 1.720858255435298e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.6151584763968437e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 386941651.62529737
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -386941651.62529737
Rp8_im_im_a4 0 x8_im_a4 1.6151584763968437e-08
.ENDS s_equivalent
